### PR TITLE
chore(SetTheory/Ordinal/Basic): deprecate `List.Sorted.lt_ord_of_lt`

### PR DESCRIPTION
**Pull request by vihdzp**
This is a very specific result - we instead inline (and slightly simplify) its proof where it's needed.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by dagurtomas — COMMENTED** [review]
I don't really see the point of this deprecation, but I also don't feel strongly about it. I'm neutral.

**Comment by vihdzp** [comment]
I think the likelihood this result gets used again is basically zero, so it's really just taking up space in the file (which is very close to the 1.5k line mark, mind you). A more useful result might be something like this:
```lean 4
theorem Sorted.forall_lt_of_lt [Preorder α] {l m : List α} {a : α}
    (hm : m.Sorted (· > ·)) (h : m < l) (hlt : ∀ i ∈ l, i < a) : ∀ i ∈ m, i < a :=
  match l with
  | nil => (Lex.not_nil_right _ _ h).elim
  | cons a l => fun i hi ↦
    have : Inhabited α := ⟨i⟩
    ((hm.le_head! hi).trans <| head!_le_of_lt _ _ h (ne_nil_of_mem hi)).trans_lt <|
      hlt _ <| List.head!_mem_self (cons_ne_nil a l)
```
Unfortunately, I wasn't able to prove the other result using this one.

**Comment by dagurtomas** [comment]
I'll try using your suggestion. Is it ok if I push to this branch?

**Comment by dagurtomas** [comment]
Oh, your suggestion is basically a weaker result. The point here is to compare with a general ordinal that's possibly bigger than the underlying well-order. So it can't be used in the application.

Anyway, if someone wants to merge this I wouldn't mind, but again I don't see the point (it's making a 1500 line file shorter only to make an 1800 line file longer).

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 1]
```diff
@@ -1451,8 +1451,7 @@ theorem type_fin (n : ℕ) : @type (Fin n) (· < ·) _ = n := by simp
 
 end Ordinal
 
-/-! ### Sorted lists -/
-
+@[deprecated (since := "2024-09-20")]
 theorem List.Sorted.lt_ord_of_lt [LinearOrder α] [IsWellOrder α (· < ·)] {l m : List α}
     {o : Ordinal} (hl : l.Sorted (· > ·)) (hm : m.Sorted (· > ·)) (hmltl : m < l)
     (hlt : ∀ i ∈ l, Ordinal.typein (· < ·) i < o) : ∀ i ∈ m, Ordinal.typein (· < ·) i < o := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Basic.lean:1457]: Instead of inlining, could you extract out the lemma that `m ≤ l` implies that `∀ i ∈ m, ∃ j ∈ l, i ≤ j`?

**Comment by vihdzp** [comment]
Closing. The file can actually be refactored in such a way that my weaker result suffices.
